US06025506
(2R,3S)-3-(4-Methoxyphenyl)oxirane-2-carboxylic (1S,2R)-1-(diethylamino)-2-indanyl ester
In 5-10 min., 0.95 grams (8.5 mmol) of potassium tert-butoxide was added, in small portions, to a solution of 2.05 grams (7.3 mmol) of (1S,2R)-1-(diethylamino)-2-indanyl chloroacetate and 1.0 gram (7.3 mmol) of p-anisic aldehyde in 40 ml of toluene at 20° C. The temperature increased to 25° C. After 30 minutes' stirring the reaction was quenched using a diluted NaHCO3 solution in water. The organic layer was separated and washed with water, dried using Na2SO4 and evaporated. Yield: 2.75 grams (90%) of a yellow oil. This oil is a mixture of (2R,3S)-3-(4-methoxyphenyl)oxirane-2-carboxylic (1S,2R)-1-(diethylamino)-2-indanyl ester (diastereomeric ratio 89:11) and (2R,3S)-3-(4-methoxyphenyl)oxirane-2-carboxylic tert-butyl ester (enantiomeric excess 80%). 1H NMR (200 MHz, CDCl3): 1.02 (2*t, 6H), 2.48-2.78 (m,4H), 2.95-3.27 (m, 2H), 3.44 (d, J=2.0 Hz) and 3.48 (d, J=2.0 Hz, together 1H for major and minor diastereomers, resp.), 3.80 (s, 3H), 4.02 (d, J=2.0 Hz) and 4.07 (d, J=2.0 Hz, together 1H for minor and major diastereomers, resp.), 4.60 (d, 1H), 5.62-5.75 (m, 1H), 6.85 (d, 2H) and 7.15-7.38 (d+m, 6H). 13C NMR (50.31 MHz, CDCl3): 14.71 (q), 37.58 (t), 45.35 (t), 55.30 (q), 56.85 (d), 57.97 (d), 66.51 (d), 77.02 (d), 113.49 (d), 114.10 (d), 124.93 (d), 125.32 (d), 126.81 (d), 127.12 (d), 127.27 (d), 127.74 (s), 139.16 (s), 160.18 (s) and 168.16 (s). (2R,3S)-3-(4-Methoxyphenyl)oxirane-2-carboxylic tert-butyl ester: 1H NMR (200 MHz, CDCl3): 1.43 (s, 9H), 3.33 (d, 1H), 3.73 (s, 3H), 3.89 (d, 3H), 6.81 (d, 2H) and 7.14 (d, 2H).

reactant | potassium tert-butoxide | 8.5 mmol, 0.95 grams | CC(C)([O-])C.[K+]
reactant | (1S,2R)-1-(diethylamino)-2-indanyl chloroacetate | 7.3 mmol, 2.05 grams | ClCC(=O)O[C@H]1[C@H](C2=CC=CC=C2C1)N(CC)CC | C15H20ClNO2
reactant | p-anisic aldehyde | 7.3 mmol, 1.0 gram | COC1=CC=C(C=C1)C=O | C8H8O2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | (2R,3S)-3-(4-Methoxyphenyl)oxirane-2-carboxylic (1S,2R)-1-(diethylamino)-2-indanyl ester | C(C)N([C@@H]1[C@@H](CC2=CC=CC=C12)OC(=O)[C@@H]1O[C@H]1C1=CC=C(C=C1)OC)CC | C23H27NO4
